US08293746B2
Step 24.2: 4-(4-Ethyl-piperazin-1-yl)-3-fluoro-phenylamine
A suspension of 1-ethyl-4-(2-fluoro-4-nitro-phenyl)-piperazine (1.24 g, 15.1 mmol) and Raney Nickel (13 mg) in MeOH (6 mL) is stirred for 17 h at RT, under a hydrogen atmosphere. The reaction mixture is filtered through a pad of celite and concentrated to afford the title compound as a purple oil: ESI-MS: 224.1 [MH]+; tR=0.90 min (system 1).

reactant | 1-ethyl-4-(2-fluoro-4-nitro-phenyl)-piperazine | 15.1 mmol, 1.24 g | C(C)N1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])F | C12H16FN3O2
catalyst | Raney Nickel | 13 mg | [Ni] | Ni
solvent | MeOH | 6 mL | CO | CH4O
product | 4-(4-Ethyl-piperazin-1-yl)-3-fluoro-phenylamine | C(C)N1CCN(CC1)C1=C(C=C(C=C1)N)F | C12H18FN3
